.title kicad schematic

.include full_adder.sub
* u15 a0 plot_v1
* u16 a0 net-_u16-pad2_ adc_bridge_1
v8 a0 gnd pulse(0 5 0 10n 10n 0.5m 1m)
v6 a2 gnd pulse(0 5 0 10n 10n 2m 4m)
v5 a3 gnd pulse(0 5 0 10n 10n 4m 8m)
* u11 a2 plot_v1
* u14 a1 net-_u14-pad2_ adc_bridge_1
* u12 a2 net-_u12-pad2_ adc_bridge_1
* u13 a1 plot_v1
v7 a1 gnd pulse(0 5 0 10n 10n 1m 2m)
* u9 a3 plot_v1
* u8 b0 net-_u17-pad2_ adc_bridge_1
* u10 a3 net-_u10-pad2_ adc_bridge_1
* u18 net-_u14-pad2_ net-_u18-pad2_ net-_u18-pad3_ d_xor
* u21 net-_u16-pad2_ net-_u17-pad2_ net-_u21-pad3_ d_and
* u20 net-_u10-pad2_ net-_u2-pad2_ net-_u20-pad3_ d_xor
* u22 net-_u14-pad2_ net-_u18-pad2_ net-_u22-pad3_ d_and
* u19 net-_u12-pad2_ net-_u19-pad2_ net-_u19-pad3_ d_xor
* u23 net-_u12-pad2_ net-_u19-pad2_ net-_u23-pad3_ d_and
v9 cin gnd pulse(0 5 0 10n 10n 0.5m 1m)
* u25 cin net-_u25-pad2_ adc_bridge_1
* u17 net-_u16-pad2_ net-_u17-pad2_ net-_u17-pad3_ d_xor
* u26 cin plot_v1
* u7 b0 plot_v1
v4 b0 gnd pulse(0 5 0 10n 20n 0.5m 1m)
v3 b1 gnd pulse(0 5 0 10n 10n 1m 2m)
* u4 b2 net-_u19-pad2_ adc_bridge_1
* u6 b1 net-_u18-pad2_ adc_bridge_1
* u5 b1 plot_v1
* u3 b2 plot_v1
* u2 b3 net-_u2-pad2_ adc_bridge_1
* u1 b3 plot_v1
v2 b2 gnd pulse(0 5 0 10n 10n 2m 4m)
v1 b3 gnd pulse(0 5 0 10n 10n 4m 8m)
* u62 net-_u51-pad3_ cout dac_bridge_1
* u56 cout plot_v1
* u24 net-_u10-pad2_ net-_u2-pad2_ net-_u24-pad3_ d_and
* u34 net-_u22-pad3_ net-_u32-pad3_ net-_u34-pad3_ d_or
* u32 net-_u32-pad1_ net-_u29-pad3_ net-_u32-pad3_ d_or
* u40 net-_u40-pad1_ net-_u23-pad3_ net-_u40-pad3_ d_or
* u42 net-_u42-pad1_ net-_u37-pad3_ net-_u40-pad1_ d_or
* u37 net-_u37-pad1_ net-_u35-pad3_ net-_u37-pad3_ d_or
* u44 net-_u20-pad3_ net-_u23-pad3_ net-_u44-pad3_ d_and
* u45 net-_u19-pad3_ net-_u20-pad3_ net-_u45-pad3_ d_and
* u49 net-_u18-pad3_ net-_u45-pad3_ net-_u49-pad3_ d_and
* u47 net-_u22-pad3_ net-_u45-pad3_ net-_u46-pad1_ d_and
* u55 net-_u25-pad2_ net-_u53-pad3_ net-_u54-pad1_ d_and
* u54 net-_u54-pad1_ net-_u50-pad3_ net-_u52-pad1_ d_or
* u51 net-_u51-pad1_ net-_u24-pad3_ net-_u51-pad3_ d_or
* u52 net-_u52-pad1_ net-_u46-pad3_ net-_u51-pad1_ d_or
* u50 net-_u21-pad3_ net-_u49-pad3_ net-_u50-pad3_ d_and
* u53 net-_u17-pad3_ net-_u49-pad3_ net-_u53-pad3_ d_and
* u43 net-_u25-pad2_ net-_u41-pad3_ net-_u42-pad1_ d_and
* u46 net-_u46-pad1_ net-_u44-pad3_ net-_u46-pad3_ d_or
* u27 net-_u25-pad2_ net-_u17-pad3_ net-_u27-pad3_ d_and
* u29 net-_u21-pad3_ net-_u18-pad3_ net-_u29-pad3_ d_and
* u31 net-_u17-pad3_ net-_u18-pad3_ net-_u31-pad3_ d_and
* u28 net-_u21-pad3_ net-_u27-pad3_ net-_u28-pad3_ d_or
* u33 net-_u25-pad2_ net-_u31-pad3_ net-_u32-pad1_ d_and
* u35 net-_u22-pad3_ net-_u19-pad3_ net-_u35-pad3_ d_and
* u41 net-_u17-pad3_ net-_u36-pad3_ net-_u41-pad3_ d_and
* u38 net-_u21-pad3_ net-_u36-pad3_ net-_u37-pad1_ d_and
* u36 net-_u18-pad3_ net-_u19-pad3_ net-_u36-pad3_ d_and
x1 net-_u16-pad2_ net-_u17-pad2_ net-_u25-pad2_ net-_x1-pad4_ unconnected-_x1-pad5_ full_adder
x2 net-_u18-pad2_ net-_u14-pad2_ net-_u28-pad3_ net-_x2-pad4_ unconnected-_x2-pad5_ full_adder
x4 net-_u10-pad2_ net-_u2-pad2_ net-_u40-pad3_ net-_x4-pad4_ unconnected-_x4-pad5_ full_adder
* u61 net-_x4-pad4_ s3 dac_bridge_1
* u57 s3 plot_v1
* u48 s2 plot_v1
* u60 net-_x3-pad4_ s2 dac_bridge_1
x3 net-_u12-pad2_ net-_u19-pad2_ net-_u34-pad3_ net-_x3-pad4_ unconnected-_x3-pad5_ full_adder
* u58 net-_x1-pad4_ s0 dac_bridge_1
* u30 s0 plot_v1
* u39 s1 plot_v1
* u59 net-_x2-pad4_ s1 dac_bridge_1
a1 [a0 ] [net-_u16-pad2_ ] u16
a2 [a1 ] [net-_u14-pad2_ ] u14
a3 [a2 ] [net-_u12-pad2_ ] u12
a4 [b0 ] [net-_u17-pad2_ ] u8
a5 [a3 ] [net-_u10-pad2_ ] u10
a6 [net-_u14-pad2_ net-_u18-pad2_ ] net-_u18-pad3_ u18
a7 [net-_u16-pad2_ net-_u17-pad2_ ] net-_u21-pad3_ u21
a8 [net-_u10-pad2_ net-_u2-pad2_ ] net-_u20-pad3_ u20
a9 [net-_u14-pad2_ net-_u18-pad2_ ] net-_u22-pad3_ u22
a10 [net-_u12-pad2_ net-_u19-pad2_ ] net-_u19-pad3_ u19
a11 [net-_u12-pad2_ net-_u19-pad2_ ] net-_u23-pad3_ u23
a12 [cin ] [net-_u25-pad2_ ] u25
a13 [net-_u16-pad2_ net-_u17-pad2_ ] net-_u17-pad3_ u17
a14 [b2 ] [net-_u19-pad2_ ] u4
a15 [b1 ] [net-_u18-pad2_ ] u6
a16 [b3 ] [net-_u2-pad2_ ] u2
a17 [net-_u51-pad3_ ] [cout ] u62
a18 [net-_u10-pad2_ net-_u2-pad2_ ] net-_u24-pad3_ u24
a19 [net-_u22-pad3_ net-_u32-pad3_ ] net-_u34-pad3_ u34
a20 [net-_u32-pad1_ net-_u29-pad3_ ] net-_u32-pad3_ u32
a21 [net-_u40-pad1_ net-_u23-pad3_ ] net-_u40-pad3_ u40
a22 [net-_u42-pad1_ net-_u37-pad3_ ] net-_u40-pad1_ u42
a23 [net-_u37-pad1_ net-_u35-pad3_ ] net-_u37-pad3_ u37
a24 [net-_u20-pad3_ net-_u23-pad3_ ] net-_u44-pad3_ u44
a25 [net-_u19-pad3_ net-_u20-pad3_ ] net-_u45-pad3_ u45
a26 [net-_u18-pad3_ net-_u45-pad3_ ] net-_u49-pad3_ u49
a27 [net-_u22-pad3_ net-_u45-pad3_ ] net-_u46-pad1_ u47
a28 [net-_u25-pad2_ net-_u53-pad3_ ] net-_u54-pad1_ u55
a29 [net-_u54-pad1_ net-_u50-pad3_ ] net-_u52-pad1_ u54
a30 [net-_u51-pad1_ net-_u24-pad3_ ] net-_u51-pad3_ u51
a31 [net-_u52-pad1_ net-_u46-pad3_ ] net-_u51-pad1_ u52
a32 [net-_u21-pad3_ net-_u49-pad3_ ] net-_u50-pad3_ u50
a33 [net-_u17-pad3_ net-_u49-pad3_ ] net-_u53-pad3_ u53
a34 [net-_u25-pad2_ net-_u41-pad3_ ] net-_u42-pad1_ u43
a35 [net-_u46-pad1_ net-_u44-pad3_ ] net-_u46-pad3_ u46
a36 [net-_u25-pad2_ net-_u17-pad3_ ] net-_u27-pad3_ u27
a37 [net-_u21-pad3_ net-_u18-pad3_ ] net-_u29-pad3_ u29
a38 [net-_u17-pad3_ net-_u18-pad3_ ] net-_u31-pad3_ u31
a39 [net-_u21-pad3_ net-_u27-pad3_ ] net-_u28-pad3_ u28
a40 [net-_u25-pad2_ net-_u31-pad3_ ] net-_u32-pad1_ u33
a41 [net-_u22-pad3_ net-_u19-pad3_ ] net-_u35-pad3_ u35
a42 [net-_u17-pad3_ net-_u36-pad3_ ] net-_u41-pad3_ u41
a43 [net-_u21-pad3_ net-_u36-pad3_ ] net-_u37-pad1_ u38
a44 [net-_u18-pad3_ net-_u19-pad3_ ] net-_u36-pad3_ u36
a45 [net-_x4-pad4_ ] [s3 ] u61
a46 [net-_x3-pad4_ ] [s2 ] u60
a47 [net-_x1-pad4_ ] [s0 ] u58
a48 [net-_x2-pad4_ ] [s1 ] u59
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u16 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u18 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u20 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u19 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u25 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u17 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u62 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u24 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u34 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u32 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u40 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u42 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u37 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u44 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u45 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u49 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u47 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u55 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u54 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u51 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u52 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u50 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u53 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u43 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u46 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u27 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u31 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u28 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u33 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u35 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u41 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u38 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u61 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u60 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u58 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u59 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 8e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a0)
plot v(a2)
plot v(a1)
plot v(a3)
plot v(cin)
plot v(b0)
plot v(b1)
plot v(b2)
plot v(b3)
plot v(cout)
plot v(s3)
plot v(s2)
plot v(s0)
plot v(s1)
.endc
.end
