.title kicad schematic

.include full_adder.sub
v4 b0 gnd pulse(0 5 0 10n 10n 0.5m 1m)
v7 a1 gnd pulse(0 5 0 10n 10n 1m 2m)
v1 b3 gnd pulse(0 5 0 10n 10n 4m 8m)
v6 a2 gnd pulse(0 5 0 10n 10n 2m 4m)
* u27 a2 plot_v1
v3 b1 gnd pulse(0 5 0 10n 10n 1m 2m)
* u20 b0 plot_v1
* u17 b1 plot_v1
* u13 b2 plot_v1
v2 b2 gnd pulse(0 5 0 10n 10n 2m 4m)
* u11 b3 plot_v1
v5 a3 gnd pulse(0 5 0 10n 10n 4m 8m)
* u25 a3 plot_v1
* u10 b3 net-_u1-pad1_ adc_bridge_1
* u12 b2 net-_u12-pad2_ adc_bridge_1
* u14 b1 net-_u14-pad2_ adc_bridge_1
x4 net-_u21-pad3_ net-_u31-pad2_ net-_u1-pad2_ net-_x4-pad4_ net-_x3-pad3_ full_adder
* u21 net-_u19-pad2_ net-_u1-pad2_ net-_u21-pad3_ d_xor
* u15 net-_u14-pad2_ net-_u1-pad2_ net-_u15-pad3_ d_xor
x3 net-_u15-pad3_ net-_u28-pad2_ net-_x3-pad3_ net-_x3-pad4_ net-_x2-pad3_ full_adder
* u7 net-_u12-pad2_ net-_u1-pad2_ net-_u7-pad3_ d_xor
* u22 net-_x4-pad4_ s0 dac_bridge_1
* u23 s0 plot_v1
* u18 s1 plot_v1
* u16 net-_x3-pad4_ s1 dac_bridge_1
* u9 s2 plot_v1
* u8 net-_u8-pad1_ s2 dac_bridge_1
x2 net-_u7-pad3_ net-_u26-pad2_ net-_x2-pad3_ net-_u8-pad1_ net-_u2-pad1_ full_adder
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ d_xor
* u6 overflow plot_v1
* u2 net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ d_xor
* u5 s3 plot_v1
* u3 net-_u3-pad1_ s3 dac_bridge_1
x1 net-_u1-pad3_ net-_u24-pad2_ net-_u2-pad1_ net-_u3-pad1_ net-_u2-pad2_ full_adder
* u4 net-_u2-pad3_ overflow dac_bridge_1
* u19 b0 net-_u19-pad2_ adc_bridge_1
* u30 a/s net-_u1-pad2_ adc_bridge_1
* u31 a0 net-_u31-pad2_ adc_bridge_1
* u28 a1 net-_u28-pad2_ adc_bridge_1
* u24 a3 net-_u24-pad2_ adc_bridge_1
* u26 a2 net-_u26-pad2_ adc_bridge_1
v8 a0 gnd pulse(0 5 0 10n 10n 0.5m 1m)
* u29 a1 plot_v1
* u32 a0 plot_v1
* u33 a/s plot_v1
v9 a/s gnd pulse(0 5 0 10n 10n 0.5m 1m)
a1 [b3 ] [net-_u1-pad1_ ] u10
a2 [b2 ] [net-_u12-pad2_ ] u12
a3 [b1 ] [net-_u14-pad2_ ] u14
a4 [net-_u19-pad2_ net-_u1-pad2_ ] net-_u21-pad3_ u21
a5 [net-_u14-pad2_ net-_u1-pad2_ ] net-_u15-pad3_ u15
a6 [net-_u12-pad2_ net-_u1-pad2_ ] net-_u7-pad3_ u7
a7 [net-_x4-pad4_ ] [s0 ] u22
a8 [net-_x3-pad4_ ] [s1 ] u16
a9 [net-_u8-pad1_ ] [s2 ] u8
a10 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u1-pad3_ u1
a11 [net-_u2-pad1_ net-_u2-pad2_ ] net-_u2-pad3_ u2
a12 [net-_u3-pad1_ ] [s3 ] u3
a13 [net-_u2-pad3_ ] [overflow ] u4
a14 [b0 ] [net-_u19-pad2_ ] u19
a15 [a/s ] [net-_u1-pad2_ ] u30
a16 [a0 ] [net-_u31-pad2_ ] u31
a17 [a1 ] [net-_u28-pad2_ ] u28
a18 [a3 ] [net-_u24-pad2_ ] u24
a19 [a2 ] [net-_u26-pad2_ ] u26
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u21 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u15 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u7 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u22 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u16 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u1 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u2 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u30 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u31 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u28 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u24 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u26 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-03 8e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a2)
plot v(b0)
plot v(b1)
plot v(b2)
plot v(b3)
plot v(a3)
plot v(s0)
plot v(s1)
plot v(s2)
plot v(overflow)
plot v(s3)
plot v(a1)
plot v(a0)
plot v(a/s)
.endc
.end
